US04009208
92. N,N'-(cis-3-heptene-1,7-diyl)bis(4-trifluoromethoxybenzamide)
A solution containing 9.86 g. of N,N'-(3-heptyne-1,7-diyl)bis(4-trifluoromethoxybenzamide) in 110 ml. of ethanol and 5.0 ml. of pyridine was hydrogenated in a Parr shaker using 1.0 g. of palladium-on-barium sulfate using an initial pressure of hydrogen of 35.5 psi and taking about 40 minutes. The reaction mixture was filtered to remove the catalyst and the filtrate was concentrated in vacuo to remove the sulfate. The white crystalline solid residue was recrystallized from carbon tetrachloride using a small quantity of methanol to yield, as a white microcrystalline powder after drying in vacuo at 60° C. for about 50 hours, 7.6 g. of N,N'-(cis-3-heptene-1,7-diyl)bis(4-trifluoromethoxybenzamide), m.p. 111°-113° C.

reactant | N,N'-(3-heptyne-1,7-diyl)bis(4-trifluoromethoxybenzamide) | C(CC#CCCCNC(C1=CC=C(C=C1)OC(F)(F)F)=O)NC(C1=CC=C(C=C1)OC(F)(F)F)=O | C23H20F6N2O4
reactant | ethanol | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N,N'-(cis-3-heptene-1,7-diyl)bis(4-trifluoromethoxybenzamide) | C(C\C=C/CCCNC(C1=CC=C(C=C1)OC(F)(F)F)=O)NC(C1=CC=C(C=C1)OC(F)(F)F)=O | C23H22F6N2O4
